US06066657
(4-Bromo-7-methoxybenzofuran-2-yl)-methanol
Sodium borohydride (1.12 g) was added portionwise to a stirred solution of 2-formyl-4-bromo-7-methoxybenzofuran (30 g) in 1-butanol (150 ml) at ambient temperature. After stirring for 1 h the reaction was quenched by the addition of 2M hydrochloric acid (100 ml) and stirred overnight. The mixture was separated and the organic phase washed with water (200 ml). The combined aqueous phases were extracted with tert-butyl methyl ether (100 ml). The organic phases were combined and concentrated in vacuo followed by drying in vacuo at 60° C. to afford the title compound as a brown solid (26 g).

reactant | Sodium borohydride | 1.12 g | [BH4-].[Na+]
reactant | 2-formyl-4-bromo-7-methoxybenzofuran | 30 g | C(=O)C=1OC2=C(C1)C(=CC=C2OC)Br | C10H7BrO3
solvent | 1-butanol | 150 ml | C(CCC)O | C4H10O
product | (4-Bromo-7-methoxybenzofuran-2-yl)-methanol | 26 g | BrC1=CC=C(C2=C1C=C(O2)CO)OC | C10H9BrO3
